US04803289
Undecyltriphenylphosphonium bromide (16.3 g, prepared by heating 1-bromoundecane and triphenylphosphine together in refluxing xylene) is suspended in dry ether (400 ml) and the mixture is stirred under nitrogen whilst 1.7M butyllithium in hexane (47.5 ml) is added from a syringe. The resulting bright red solution is cooled to 10° C. and treated dropwise with ethyl 5-oxopentanoate (7.25 g) in dry ether (50 ml). After 10 minutes, water (200 ml) is added and when the solid product has dissolved the ether layer is separated and the aqueous layer is washed with ether (3×100 ml). The combined ethereal solutions are dried over magnesium sulphate and the ether is evaporated. The residue is shaken with hexane (200 ml), and the mixture is cooled and filtered. The filtrate is concentrated to a volume of 100 ml and then cooled to allow crystallisation of the triphenylphosphine oxide. When this is complete, the mixture is filtered and the filtrate is evaporated to yield ethyl (Z)-hexadec-5-enoate in crude form as a yellow oil (10.1 g).

reactant | Undecyltriphenylphosphonium bromide | [Br-].C(CCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-bromoundecane | BrCCCCCCCCCCC | C11H23Br
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | butyllithium | 1.7M | C(CCC)[Li]
reactant | ethyl 5-oxopentanoate | 7.25 g | O=CCCCC(=O)OCC | C7H12O3
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | hexane | 47.5 ml | CCCCCC | C6H14
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl (Z)-hexadec-5-enoate | C(CCC\C=C/CCCCCCCCCC)(=O)OCC | C18H34O2
